US05952351
The 4-(5-fluoro-3-(2,2,2-trifluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine (~10 mmol.) above was dissolved in anhydrous DMF (25 mL) followed by the addition of 1,1 -dioxido-2-(4-bromobutyl)-5-chloro-1,2-benzisothiazol-3(2H)-one (3.54 g, 10 mmol.) and triethylamine (1.4 mL, 10 mmol.) and allowed to stir at 50° C. under an inert atmosphere for three hours or until reaction was complete. The cooled solution was diluted with EtOAc and washed with NaHCO3 /Na2CO3 solutions, water (3×), and the organic layer dried (Na2SO4), filtered and the solvent evaporated to give 1,1-dioxido-2-(4-(4-(5-fluoro-3-(2,2,2-trifluoroethyl)-2-oxo-1-benzimidazolinyl)piperidin-1-yl)butyl)-5-chloro-1,2-benzisothiazol-3(2H)-one as a viscous oil. This material was dissolved in EtOAc (50 mL) and excess HCl gas/EtOAc was added to give an immediate copious white precipitate which was gently digested in the warmed EtOAc to give the crystalline HCl salt of Compound A, mp: 255-257 ° C. Analysis calculated for C25H25ClF4N4O4S.HCl: C, 48.00; H, 4.19; N, 8.96; found: C, 47.96; H, 4.17; N, 8.93. The NMR was consistent with structure.

reactant | 4-(5-fluoro-3-(2,2,2-trifluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine | ~10 mmol | FC1=CC2=C(N(C(N2CC(F)(F)F)=O)C2CCNCC2)C=C1 | C14H15F4N3O
reactant | 1,1 -dioxido-2-(4-bromobutyl)-5-chloro-1,2-benzisothiazol-3(2H)-one | 10 mmol, 3.54 g | O=S1(N(C(C2=C1C=CC(=C2)Cl)=O)CCCCBr)=O | C11H11BrClNO3S
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1,1-dioxido-2-(4-(4-(5-fluoro-3-(2,2,2-trifluoroethyl)-2-oxo-1-benzimidazolinyl)piperidin-1-yl)butyl)-5-chloro-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC(=C2)Cl)=O)CCCCN2CCC(CC2)N2C(N(C1=C2C=CC(=C1)F)CC(F)(F)F)=O)=O | C25H25ClF4N4O4S
